US06600037B1
4-[4-(1-Amino-1-methylethyl)phenyl]-5-chloro-N-[4-(2-hydroxyethyl)phenyl]pyrimidine-2-amine
A mixture of 4-[4-(1-tertbutoxycarbonylamino-1-methylethyl)phenyl]-2,5-dichloropyrimidine (1.53 g, 4.0 mmol) and 4-aminophenethyl alcohol (1.10 g, 8.0 mmol) in 2-ethoxyethanol (15 ml) was heated to reflux for 18 h. The reaction was cooled to room temperature, trifluoroacetic acid (2 ml) added and the reaction stirred for 30 min. Solvent was removed in vacuo and the residue partitioned between CH2Cl2 (100 ml) and saturated, aqueous Na2CO3 (80 ml). The aqueous layer was re-extracted with CH2Cl2 (2×80 ml) and the combined CH2Cl2 layer washed with aqueous Na2CO3 (80 ml), brine (80 ml), dried (MgSO4) and concentrated in vacuo. The crude product was purified by column chromatography (silica, 10-15% methanol in CH2Cl2) to give the title compound as a buff solid (1.30 g) m.p. 162-163°. δH (d6DMSO) 9.74 (1H, s), 8.55 (1H, s), 7.76 (2H, d, J 8.5 Hz), 7.68 (2H, d, J 8.5 Hz), 7.62 (2H, d, J 8.5 Hz), 7.12 (2H, d, J 8.5 Hz), 4.57 (1H, bs), 3.55 (2H, m), 2.65 (2H, t, J 7.2 Hz), 1.41 (6H, s); MS (ESI) 383 (MH+, 35Cl, 100%).

reactant | 4-[4-(1-tertbutoxycarbonylamino-1-methylethyl)phenyl]-2,5-dichloropyrimidine | 4.0 mmol, 1.53 g | C(C)(C)(C)OC(=O)NC(C)(C)C1=CC=C(C=C1)C1=NC(=NC=C1Cl)Cl | C18H21Cl2N3O2
reactant | 4-aminophenethyl alcohol | 8.0 mmol, 1.10 g | NC1=CC=C(CCO)C=C1 | C8H11NO
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | 2-ethoxyethanol | 15 ml | C(C)OCCO | C4H10O2
product | 4-[4-(1-Amino-1-methylethyl)phenyl]-5-chloro-N-[4-(2-hydroxyethyl)phenyl]pyrimidine-2-amine | NC(C)(C)C1=CC=C(C=C1)C1=NC(=NC=C1Cl)NC1=CC=C(C=C1)CCO | C21H23ClN4O
